US05356918
N-(2-Nitrooxyethyl)-3-methyl-2-oxothiazolidine-4-carboxamide (Compound No. 1-2)
1.33 ml of triethylamine and 0.36 ml of diethyl cyanophosphonate were added, whilst ice-cooling and stirring, to a suspension of 402 mg of N-(2-nitrooxyethyl)amine nitrate and 326 mg of 3-methyl-2-oxothiazolidine-4-carboxylic acid in 35 ml of dry tetrahydrofuran, and the resulting mixture was stirred at room temperature for 3.5 hours, after which the solvent was removed by distillation under reduced pressure. The residue was mixed with ethyl acetate, and the resulting mixture was washed with a saturated aqueous solution of sodium chloride. It was then dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The crystalline residue was recrystallized from ethanol, to give 247 mg of the title compound as colorless crystals, melting at 105°-106° C.

reactant | triethylamine | 1.33 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.36 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | N-(2-nitrooxyethyl)amine nitrate | 402 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 3-methyl-2-oxothiazolidine-4-carboxylic acid | 326 mg | CN1C(SCC1C(=O)O)=O | C5H7NO3S
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | N-(2-Nitrooxyethyl)-3-methyl-2-oxothiazolidine-4-carboxamide | 247 mg | [N+](=O)([O-])OCCNC(=O)C1N(C(SC1)=O)C | C7H11N3O5S
